US07858640B2
Trifluoromethanesulfonic Acid 3-(4-chlorobenzyl)-2,4,7-trimethylquinolin-5-yl Ester
A mixture of 3-(4-chlorobenzyl)-2,4,7-trimethylquinolin-5-ol (0.32 g), N-phenyltrifluoromethanesulfonimide (0.36 g), potassium carbonate (0.42 g) and tetrahydrofuran (5.0 mL) was heated by microwave irradiation at 120° C. for 20 minutes. The mixture was filtered and the filtrate concentrated under reduced pressure. Purification of the residue by column chromatography on silica gel, eluting with a mixture of dichloromethane and methyl tert-butyl ether (9:1 by volume) gave title compound, 0.39 g.

reactant | 3-(4-chlorobenzyl)-2,4,7-trimethylquinolin-5-ol | 0.32 g | ClC1=CC=C(CC=2C(=NC=3C=C(C=C(C3C2C)O)C)C)C=C1 | C19H18ClNO
reactant | N-phenyltrifluoromethanesulfonimide | 0.36 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | potassium carbonate | 0.42 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | Trifluoromethanesulfonic Acid 3-(4-chlorobenzyl)-2,4,7-trimethylquinolin-5-yl Ester | ClC1=CC=C(CC=2C(=NC3=CC(=CC(=C3C2C)OS(=O)(=O)C(F)(F)F)C)C)C=C1 | C20H17ClF3NO3S
